US08017604B2
Step 2: 2-Methyl-4-(pyrrolidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide
TBTU (75 mg) and diisopropylethylamine (75 mg) were added to a solution of 1-methyl-5-(2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (70 mg) in DMF (2 ml), and the mixture was stirred at r.t. (30 min). Pyrrolidine (14 mg) was added to the brown solution, and the reaction mixture was stirred at r.t. overnight. Water was added and the mixture was extracted several times with ethyl acetate. The combined organic layers were dried (Na2SO4), and evaporated. The title compound (43 mg, 54%) was isolated from the residue by preparative, inverse-phase HPLC (Agilent Zorbax XdB-C18 column, time per run ˜7 min, flow rate 30 ml/min, solvent gradient H2O/CH3CN=95:5-5:95). MS (m/e)=415.3 [M+H+].

reactant | TBTU | 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 75 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-5-(2-phenyl-imidazo[1,2-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 70 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)C=C(N2)C2=CC=CC=C2)=O)C(=O)O | C19H15N5O3
reactant | Pyrrolidine | 14 mg | N1CCCC1 | C4H9N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-Methyl-4-(pyrrolidine-1-carbonyl)-2H-pyrazole-3-carboxylic acid (2-phenyl-imidazo[1,2-a]pyridin-7-yl)-amide | 43 mg, 54% | C1(=CC=CC=C1)C=1N=C2N(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)N2CCCC2)C)C1 | C23H22N6O2
